.SUBCKT irf6708s2trpbf 1 2 3
* SPICE3 MODEL WITH THERMAL RC NETWORK 
**************************************
*      Model Generated by MODPEX     *
*Copyright(c) Symmetry Design Systems*
*         All Rights Reserved        *
*    UNPUBLISHED LICENSED SOFTWARE   *
*   Contains Proprietary Information *
*      Which is The Property of      *
*     SYMMETRY OR ITS LICENSORS      *
*Commercial Use or Resale Restricted *
*   by Symmetry License Agreement    *
**************************************
* Model generated on Aug 18, 10
* MODEL FORMAT: SPICE3
* Symmetry POWER MOS Model (Version 1.0)
* External Node Designations
* Node 1 -> Drain
* Node 2 -> Gate
* Node 3 -> Source
M1 9 7 8 8 MM L=100u W=100u
.MODEL MM NMOS LEVEL=1 IS=1e-32
+VTO=2.57131 LAMBDA=0.000454894 KP=54.746
+CGSO=9.4748e-06 CGDO=1.57585e-07
RS 8 3 0.00451054
D1 3 1 MD
.MODEL MD D IS=2.53997e-10 RS=0.00338925 N=1.17895 BV=30
+IBV=0.00025 EG=1.2 XTI=3.59196 TT=1e-07
+CJO=5.49568e-10 VJ=1.10478 M=0.445592 FC=0.5
RDS 3 1 8e+07
RD 9 1 0.0001
RG 2 7 6
D2 4 5 MD1
* Default values used in MD1:
*   RS=0 EG=1.11 XTI=3.0 TT=0
*   BV=infinite IBV=1mA
.MODEL MD1 D IS=1e-32 N=50
+CJO=1.25087e-10 VJ=2.61998 M=0.300249 FC=1e-08
D3 0 5 MD2
* Default values used in MD2:
*   EG=1.11 XTI=3.0 TT=0 CJO=0
*   BV=infinite IBV=1mA
.MODEL MD2 D IS=1e-10 N=0.4 RS=3e-06
RL 5 10 1
FI2 7 9 VFI2 -1
VFI2 4 0 0
EV16 10 0 9 7 1
CAP 11 10 2.62541e-10
FI1 7 9 VFI1 -1
VFI1 11 6 0
RCAP 6 10 1
D4 0 6 MD3
* Default values used in MD3:
*   EG=1.11 XTI=3.0 TT=0 CJO=0
*   RS=0 BV=infinite IBV=1mA
.MODEL MD3 D IS=1e-10 N=0.4
.ENDS irf6708s2trpbf
*SPICE Thermal Model Subcircuit
.SUBCKT irf6708s2trpbft 5 1

R_RTHERM1         5 4  19.239
R_RTHERM2         4 3  25.320
R_RTHERM3         3 2  11.910
R_RTHERM4         2 1  3.4830
C_CTHERM1         5 1  0.161482
C_CTHERM2         4 1  0.019776
C_CTHERM3         3 1  0.004067
C_CTHERM4         2 1  0.000351

.ENDS irf6708s2trpbft



